US07691882B2
3-(3-(3-Pyridin-2-yl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of (3-(pyridin-2-yl)-phenyl)-acetohydroximoyl chloride (100 mg) described in Manufacturing Example 84-1-3 and tetrahydrofuran (2 mL) were added 3-ethynyl-pyridin-2-ylamine (10 mg, 0.20 mmol) described in Manufacturing Example 1-2-3 and triethylamine (71 μL, 0.51 mmol) at room temperature, which was stirred for 2.5 hours at 55° C. The reaction mixture was cooled to room temperature, and water was added at that temperature, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound as a crude product. This was then purified by reverse-phase high-performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoracetic acid) to obtain the title compound (7.2 mg, 15%) as a ditrifluoracetic acid salt.

reactant | (3-(pyridin-2-yl)-phenyl)-acetohydroximoyl chloride | 100 mg | N1=C(C=CC=C1)C=1C=C(C=CC1)CC(=NO)Cl | C13H11ClN2O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2-ylamine | 0.20 mmol, 10 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.51 mmol, 71 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(3-(3-Pyridin-2-yl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | N1=C(C=CC=C1)C=1C=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1 | C20H16N4O
